US04746356
2,1,3-Benzothiadiazole-4-sulfonyl chloride
To a stirred solution of 100 mL of chlorosulfonic acid at 0° C. was added 10.0 g of 2,1,3-benzothiadiazole under an inert atmosphere. The resulting mixture was heated at reflux for 30 minutes and cooled to room temperature. The reaction mixture was added dropwise to 1000 mL ice. The precipitates was collected, washed with water, and air dried to give the title compound as a beige solid, m.p. 146°-148° C.

reactant | chlorosulfonic acid | 100 mL | ClS(=O)(=O)O | ClHO3S
reactant | 2,1,3-benzothiadiazole | 10.0 g | N=1SN=C2C1C=CC=C2 | C6H4N2S
product | 2,1,3-Benzothiadiazole-4-sulfonyl chloride | N=1SN=C2C1C=CC=C2S(=O)(=O)Cl | C6H3ClN2O2S2
